US04708823
At room temperature, 1.6 g of 21-chloro-17-formyloxy-4-pregnene-3,20-dione is stirred in a mixture of 60 ml of methanol and 9 ml of water with 500 mg of potassium bicarbonate. After one hour, the reaction mixture is stirred into ice water. The thus-precipitated product is suctioned off, washed with water, and dried over sodium sulfate, yielding 1.3 g of 21-chloro-17-hydroxy-4-pregnene-3,20-dione; mp 239.4° C.

reactant | 21-chloro-17-formyloxy-4-pregnene-3,20-dione | 1.6 g | ClCC([C@]1(CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O)OC=O)=O | C22H29ClO4
reactant | potassium bicarbonate | 500 mg | C([O-])(O)=O.[K+]
solvent | methanol | 60 ml | CO | CH4O
solvent | water | 9 ml | O | H2O
product | 21-chloro-17-hydroxy-4-pregnene-3,20-dione | 1.3 g | ClCC([C@]1(CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O)O)=O | C21H29ClO3
